US07148215B2
1-Methyl-4-(4-nitrobenzoyl)piperazine
A stirred solution of 1-methylpiperazine (14.6 mL) and triethylamine (19.2 mL) in dry dichloromethane (132 mL) at 10° C. was treated with 4-nitrobenzoyl chloride (23.2 g) portion wise whilst maintaining the temperature below 15° C. After stirring at 10° C. for a further 1 hour the reaction mixture was allowed to warn to room temperature and treated with water (100 mL). The organic phase was then separated and the aqueous phase further extracted with dichloromethane (50 mL). The combined organic extracts were washed with a 0.5 M aqueous solution of sodium carbonate (100 mL), then with brine (100 mL), and then evaporated to low bulk and treated with petroleum ether (80–100° C.) (100 mL). After removal of further solvent, and trituration, the insoluble material collected was washed with petroleum ether (40–60° C.) to give the title compound (30.4 g) as pale orange crystalline solid, m.p. 100–101° C. 1H NMR [(CDCl3]: δ 8.29 (d, 2H), 7.59 (d, 2H), 3.94–3.71 (bs, 2H), 3.52–3.29 (bs, 2H) and 2.58–2.30 (2×brs and s overlapping, 7H).

reactant | 1-methylpiperazine | 14.6 mL | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 19.2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 23.2 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | water | 100 mL | O | H2O
solvent | dichloromethane | 132 mL | ClCCl | CH2Cl2
product | 1-Methyl-4-(4-nitrobenzoyl)piperazine | 30.4 g | CN1CCN(CC1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H15N3O3
